US07572808B2
C. Preparation of 4-(8-bromo-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)benzonitrile
To a solution of triphosgene (1.50 g, 5.20 mmol) in anhydrous THF (10 mL) at 60° C. was added 4-(3-bromo-2-hydrazinylpyridin-4-yl)benzonitrile (500 mg) in small portions over 5 min. The resulting yellow suspension was then refluxed for 2 h. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure to remove most of the THF. Water (5 mL) was added carefully to the remaining solution to destroy the excess triphosgene, then the resulting aqueous suspension was stirred at room temperature for 30 min. The suspension was filtered, and the collected solid was washed with water (10 mL×2), then dried in a 45° C. vacuum oven for 16 h to afford 575 mg of the title compound as a yellow solid. HPLC/MS: retention time=2.44 min, [M+H]+=315.

reactant | triphosgene | 5.20 mmol, 1.50 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-(3-bromo-2-hydrazinylpyridin-4-yl)benzonitrile | 500 mg | BrC=1C(=NC=CC1C1=CC=C(C#N)C=C1)NN | C12H9BrN4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(8-bromo-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)benzonitrile | 575 mg | BrC=1C=2N(C=CC1C1=CC=C(C#N)C=C1)C(NN2)=O | C13H7BrN4O
